US09126931B2
3-Bromo-6,6-dimethyl-8-((2R,3S,4S,5R,6S)-3,4,5-trihydroxy-6-methoxy-tetrahydro-pyran-2-yl methoxy)-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, to acetic acid (2S,3R,4S,5R,6R)-4,5-diacetoxy-6-(3-bromo-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-8-yloxymethyl)-2-methoxy-tetrahydro-pyran-3-yl ester (Compound T12-1, 34.0 mg, 51.63 μmol), methanol solution (2.50 mL, 2 M) of ammonia was added, and the mixture was stirred at room temperature for 21 hr. The reaction solution was concentrated under reduced pressure, and the resulting resides were washed with diethyl ether to obtain the target compound (25.7 mg, 94%).

reactant | acetic acid (2S,3R,4S,5R,6R)-4,5-diacetoxy-6-(3-bromo-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-8-yloxymethyl)-2-methoxy-tetrahydro-pyran-3-yl ester | 51.63 μmol, 34.0 mg | C(C)(=O)O[C@@H]1[C@H]([C@H](O[C@@H]([C@H]1OC(C)=O)COC=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)Br)(C)C)C1)OC)OC(C)=O | C31H32BrNO10
reactant | ammonia | N | H3N
solvent | methanol | 2 M, 2.50 mL | CO | CH4O
product | 3-Bromo-6,6-dimethyl-8-((2R,3S,4S,5R,6S)-3,4,5-trihydroxy-6-methoxy-tetrahydro-pyran-2-yl methoxy)-5,6-dihydro-benzo[b]carbazol-11-one | 25.7 mg, 94% | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC[C@H]4O[C@@H]([C@@H]([C@H]([C@@H]4O)O)O)OC)=O | C25H26BrNO7
